US04788206
As in Example 115, (E,E)-5-(4-fluorophenyl)-2,4-decadienoic acid (4.78 g) and 4-nitrophenol (3.14 g) in 20 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide (3.8 g) and the mixture was stirred at room temperature for 3 days. After the usual work up, crystallization of the crude ester from 2-propanol-hexane gave 4.86 g of (E,E)-5-(4-fluorophenyl)-2,4-decadienoic acid 4-nitrophenyl ester, mp 71°-72.5° C.

reactant | (E,E)-5-(4-fluorophenyl)-2,4-decadienoic acid | 4.78 g | FC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/CCCCC | C16H19FO2
reactant | 4-nitrophenol | 3.14 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 3.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (E,E)-5-(4-fluorophenyl)-2,4-decadienoic acid 4-nitrophenyl ester | 4.86 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/CCCCC)\C1=CC=C(C=C1)F)=O | C22H22FNO4
